US04751222
1.1 g of 8-chloro-7-methoxy-3-methyl-5-(5-indanyl)-2,3,4,5-tetrahydro-1H-3-benzazepine was dissolved in 10 ml of dichloromethane. The solution was cooled to -10° C. and 5 ml of boron tribromide was added. The reaction mixture was stirred while warming up to room temperature. After standing for 4 hours, the volatile components were removed by evaporation in vacuo and the residue was diluted with methanol at -10° C. Stripping with methanol gave 8-chloro-7-hydroxy-3-methyl-5-(5-indanyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide, m.p. 190°-200° C. (decomposition).

reactant | 8-chloro-7-methoxy-3-methyl-5-(5-indanyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 1.1 g | ClC=1C(=CC2=C(CCN(CC2C=2C=C3CCCC3=CC2)C)C1)OC | C21H24ClNO
reactant | boron tribromide | 5 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 8-chloro-7-hydroxy-3-methyl-5-(5-indanyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.ClC=1C(=CC2=C(CCN(CC2C=2C=C3CCCC3=CC2)C)C1)O | InChI=1S/C20H22ClNO.BrH/c1-22-8-7-16-10-19(21)20(23)11-17(16)18(12-22)15-6-5-13-3-2-4-14(13)9-15;/h5-6,9-11,18,23H,2-4,7-8,12H2,1H3;1H
